US05530019
The procedure of Ex. 16 was repeated except that ethyl 4-(3-linoleyl-1-indolyl)butyrate obtained in Ex. 27 was used in place of ethyl 4-[3-[8-(4-isobutylphenyl)undecanoyl]-1-indolyl]butyrate to give 4-(3-linoleyl-1-indolyl)butyric acid.

reactant | ethyl 4-(3-linoleyl-1-indolyl)butyrate | C(CCCCCCC\C=C/C\C=C/CCCCC)C1=CN(C2=CC=CC=C12)CCCC(=O)OCC | C32H49NO2
reactant | ethyl 4-[3-[8-(4-isobutylphenyl)undecanoyl]-1-indolyl]butyrate | C(C(C)C)C1=CC=C(C=C1)C(CCCCCCC(=O)C1=CN(C2=CC=CC=C12)CCCC(=O)OCC)CCC | C35H49NO3
product | 4-(3-linoleyl-1-indolyl)butyric acid | C(CCCCCCC\C=C/C\C=C/CCCCC)C1=CN(C2=CC=CC=C12)CCCC(=O)O | C30H45NO2
